US08293909B2
To a solution containing 1-(pyridin-2-yl)cyclopropanamine dihydrochloride (0.011 g, 0.054 mmol), diisopropylethylamine (0.075 mL, 0.43 mmol), 3-(3-(tert-butoxycarbonyl(methyl)carbamoyl)-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid (0.028 g, 0.054 mmol) and DMF (0.36 mL) was added HATU (0.041 g, 0.11 mmol) in one portion. The solution was maintained at room temperature for 1 h and concentrated. The resultant residue was purified on silica gel (30-100% ethyl acetate/hexanes, 45 min. gradient) to afford tert-butyl 7-fluoro-2-(4-fluorophenyl)-5-(2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate as a residue. LCMS retention time: 2.428 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3OH/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3OH/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 638 (MH+).

reactant | 1-(pyridin-2-yl)cyclopropanamine dihydrochloride | 0.054 mmol, 0.011 g | Cl.Cl.N1=C(C=CC=C1)C1(CC1)N
reactant | diisopropylethylamine | 0.43 mmol, 0.075 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(3-(tert-butoxycarbonyl(methyl)carbamoyl)-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid | 0.054 mmol, 0.028 g | C(C)(C)(C)OC(=O)N(C(=O)C=1C(=NN2C1C=C(C=C2F)C=2C=C(C(=O)O)C=CC2C)C2=CC=C(C=C2)F)C | C28H25F2N3O5
reactant | HATU | 0.11 mmol, 0.041 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.36 mL | CN(C)C=O | C3H7NO
product | tert-butyl 7-fluoro-2-(4-fluorophenyl)-5-(2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate | FC1=CC(=CC=2N1N=C(C2C(=O)N(C(OC(C)(C)C)=O)C)C2=CC=C(C=C2)F)C2=C(C=CC(=C2)C(NC2(CC2)C2=NC=CC=C2)=O)C | C36H33F2N5O4
